US07498440B2
4-[hydroxy(diphenyl)methyl]-1-[2-({[3-(methyloxy)phenyl]methyl}oxy)ethyl]-1-azoniabicyclo[2.2.2] octane bromide
1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (30 mg, 0.102 mmol) was added to a solution of 1-{[(2-bromoethyl)oxy]methyl}-3-(methyloxy)benzene (35 mg, 0.143 mmol) in 2 CH3CN/3 CHCl3 (3 mL). The reaction was heated at 60° C. for 96 h. The reaction was concentrated, and the crude product was washed with EtOAc (3×1 mL) and then MeOH (1×1 mL). The product was dried under high vacuum to give the title compound (7.7 mg, 14%). LC/MS ESI RT 1.97 min M+ 458

reactant | 1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.102 mmol, 30 mg | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-{[(2-bromoethyl)oxy]methyl}-3-(methyloxy)benzene | 0.143 mmol, 35 mg | BrCCOCC1=CC(=CC=C1)OC | C10H13BrO2
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[2-({[3-(methyloxy)phenyl]methyl}oxy)ethyl]-1-azoniabicyclo[2.2.2] octane bromide | 7.7 mg, 14% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOCC2=CC(=CC=C2)OC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C30H36NO3.BrH/c1-33-28-14-8-9-25(23-28)24-34-22-21-31-18-15-29(16-19-31,17-20-31)30(32,26-10-4-2-5-11-26)27-12-6-3-7-13-27;/h2-14,23,32H,15-22,24H2,1H3;1H/q+1;/p-1
